US07582775B2
Step A: Preparation of racemic of 2-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carboxylic acid methyl ester
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-6-carboxylic acid methyl ester (4.50 g, 9.64 mmol) in THF (100 mL) is reacted with NaBH4 (0.37 g, 9.64 mmol) analogous to Example 2 to obtain the title compound (3.90 g, 86%).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-6-carboxylic acid methyl ester | 9.64 mmol, 4.50 g | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C1 | C28H34O4S
reactant | NaBH4 | 9.64 mmol, 0.37 g | [BH4-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carboxylic acid methyl ester | 3.90 g, 86% | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)OCC(C(C)(C)C)O)C)CC)C1 | C28H36O4S
